US08455479B2
To a solution of (R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid (90 mg, 0.26 mmol) in dry DCM (10 mL), was added HOBT (47 mg, 0.34 mmol), EDC (67 mg, 0.34 mmol) and DIPEA (0.24 mL, 1.35 mmol). The reaction mixture was stirred at r.t. for 10 min. A solution of 1,3,4,5-Tetrahydro-benzo[e][1,4]diazepin-2-one trifluoroacetate (74 mg, 0.26 mmol) in dry DCM (5 mL) was added and the reaction mixture was stirred at r.t. overnight under nitrogen atmosphere. After the completion of the reaction, as confirmed by TLC, the crude product was extracted with DCM (10 mL) and washed sequentially with 10% HCl solution (10 mL) and saturated sodium bicarbonate solution (10 mL). The organic layer was separated, washed with water, dried over Na2SO4 and concentrated in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 2:3 EtOAc:Pet.Ether) to afford [(R)-3-Oxo-3-(2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester (80 mg, 62%) as a white solid.

reactant | (R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | 0.26 mmol, 90 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
reactant | HOBT | 0.34 mmol, 47 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.34 mmol, 67 mg
reactant | DIPEA | 1.35 mmol, 0.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,3,4,5-Tetrahydro-benzo[e][1,4]diazepin-2-one trifluoroacetate | 0.26 mmol, 74 mg | FC(C(=O)O)(F)F.N1C(CNCC2=C1C=CC=C2)=O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | [(R)-3-Oxo-3-(2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester | 80 mg, 62% | C(C)(C)(C)OC(N[C@@H](CC(N1CC(NC2=C(C1)C=CC=C2)=O)=O)CC2=C(C=C(C(=C2)F)F)F)=O | C24H26F3N3O4
